US08802864B2
c) 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4′-fluoro-3-(methyloxy)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
Following the procedure described in Example 76c using 4-[4-bromo-2-(methyloxy)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one and (4-fluorophenyl)boronic acid gave the title compound as a solid (60 mg, 0.137 mmol, 72% yield). 1H NMR (400 MHz, CDCl3) δ ppm 9.27-9.05 (m, 1H), 7.58 (dd, J=5.3, 7.3 Hz, 2H), 7.34 (ddd, J=2.3, 4.0, 7.8 Hz, 1H), 7.28-7.11 (m, 3H), 4.02-3.87 (m, 3H), 3.80-3.67 (m, 1H), 3.62 (ddd, J=4.2, 8.0, 11.9 Hz, 1H), 3.49-2.96 (m, 1H), 2.77-2.36 (m, 2H), 2.32-1.99 (m, 1H), 1.88-1.67 (m, 1H), 1.59-1.50 (m, 1H), 1.09-0.92 (m, 2H), 0.84-0.67 (m, 2H).

reactant | 4-[4-bromo-2-(methyloxy)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)OC | C18H21BrN4O3
reactant | (4-fluorophenyl)boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4′-fluoro-3-(methyloxy)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.137 mmol, 60 mg, 72% yield | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C1=CC=C(C=C1)F)OC | C24H25FN4O3
